US08530388B2
N-Bromosuccinimide (24.92 g, 0.140 mol) is added, portionwise over one hour, to a stirred solution of 3-methoxycyclopent-2-enone (14.95 g, 0.133 mol) in 1,2-dichloroethane (300 ml) at 0° C. in an amber flask. The reaction is stirred at 0° C. for a further 90 minutes and then any remaining solid is removed by filtration. The filtrate is evaporated under reduced pressure, and the residue is dissolved in warm toluene (600 ml) and washed quickly with ice-cold water (2×100 ml). The organic phase is dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure until approximately 150 ml remains. The flask is cooled in an ice bath and left for 30 minutes. The resultant precipitate is removed by filtration, washed with hexane (50 ml) and dried to give 2-bromo-3-methoxycyclopent-2-enone (17.5 g, 69%).

reactant | N-Bromosuccinimide | 0.140 mol, 24.92 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-methoxycyclopent-2-enone | 0.133 mol, 14.95 g | COC1=CC(CC1)=O | C6H8O2
solvent | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
product | 2-bromo-3-methoxycyclopent-2-enone | 17.5 g, 69% | BrC=1C(CCC1OC)=O | C6H7BrO2
